US04281141
3-(imidazol-4-yl)-2,2-bis(4-chlorophenyl)-propanenitrile
As described in Example 1, 7.26 g. of 2,2-bis(4-chlorophenyl)acetonitrile, 1.33 g. of 50% sodium hydride and 2.12 g. of 4-chloromethylimidazole hydrochloride were reacted in 50 ml. of dimethylformamide. The mixture was stirred for 2 hours at 60° C. and then 21 hours at ambient temperature. The solvent was then evaporated off under vacuum and the reaction mixture was worked up as described in Example 1 to obtain 5.2 g. of the free base named above, which was converted to the maleate salt and crystallized from acetone/diethyl ether to obtain 5.73 g. of the maleate salt of the product named above, m.p. 151.5°-153° C.

reactant | 2,2-bis(4-chlorophenyl)acetonitrile | ClC1=CC=C(C=C1)C(C#N)C1=CC=C(C=C1)Cl | C14H9Cl2N
reactant | sodium hydride | [H-].[Na+]
reactant | 4-chloromethylimidazole hydrochloride | Cl.ClCC=1N=CNC1
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(imidazol-4-yl)-2,2-bis(4-chlorophenyl)-propanenitrile | N1C=NC(=C1)CC(C#N)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C18H13Cl2N3
